US08003654B2
19) Synthesis of ethyl-(2-methyl-thiazol-5-ylmethyl)-amine
prepared by reaction of 2-methyl-thiazole-5-carbaldehyde (Khanna I. K. et al J. Med. Chem. 2000, 43, 16, 3168-3185) with 2M ethylamine in THF.

reactant | 2-methyl-thiazole-5-carbaldehyde | CC=1SC(=CN1)C=O | C5H5NOS
reactant | ethylamine | 2M | C(C)N | C2H7N
solvent | THF | C1CCOC1 | C4H8O
product | ethyl-(2-methyl-thiazol-5-ylmethyl)-amine | C(C)NCC1=CN=C(S1)C | C7H12N2S
